*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-G113  
*  
* Parameters derived from information available in data sheet.  
*  
*                 anode-e-1
*                 |  anode-d-1
*                 |  |  anode-c-1
*                 |  |  |  anode-DP-1
*                 |  |  |  |  anode-e-2
*                 |  |  |  |  |  anode-d-2
*                 |  |  |  |  |  |  anode-g-2
*                 |  |  |  |  |  |  |  anode-c-2
*                 |  |  |  |  |  |  |  |  anode-DP-2
*                 |  |  |  |  |  |  |  |  |  anode-b-2
*                 |  |  |  |  |  |  |  |  |  |  anode-a-2
*                 |  |  |  |  |  |  |  |  |  |  |  anode-f-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  common-cathode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  common-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  anode-b-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  anode-a-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  anode-g-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  anode-f-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_G113 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18

DA1  16  14  dHDSP_G113
DB1  15  14  dHDSP_G113
DC1   3  14  dHDSP_G113
DD1   2  14  dHDSP_G113
DE1   1  14  dHDSP_G113
DF1  18  14  dHDSP_G113
DG1  17  14  dHDSP_G113
DDP1  4  14  dHDSP_G113

DA2  11  13  dHDSP_G113
DB2  10  13  dHDSP_G113
DC2   8  13  dHDSP_G113
DD2   6  13  dHDSP_G113
DE2   5  13  dHDSP_G113
DF2  12  13  dHDSP_G113
DG2   7  13  dHDSP_G113
DDP2  9  13  dHDSP_G113

.MODEL dHDSP_G113 D
+ (  
+    IS  = 2.08276754E-16 
+     N  = 2.17799178 
+    RS  = 0.50892350
+    BV  = 14.25
+   IBV  = 100u
+ )  

.ENDS HDSP_G113